US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-benzoyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
Step 1 of Example 1 was repeated except that benzoyl chloride was used instead of pivaloyl chloride and that 2-oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine obtained from Referential Example 4 was used instead of 2-oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine, to thereby obtain the title compound.

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | O=C1C(CNC2=C(N1)C=C(C=C2)C)NC(=O)OC(C)(C)C | C15H21N3O3
reactant | 2-oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | O=C1C(CNC2=C(N1)C=CC=C2)NC(=O)OC(C)(C)C | C14H19N3O3
product | 2-oxo-3-tert-butoxycarbonylamino-5-benzoyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | O=C1C(CN(C2=C(N1)C=C(C=C2)C)C(C2=CC=CC=C2)=O)NC(=O)OC(C)(C)C | C22H25N3O4
